US04126624
2(1-hydroxy ethyl)-2,3,5-trimethoxy-2,5-dihydrofuran (2.82 g, 0.015 moles) in 2 ml methanol was added to 15 ml of formic acid over 5 minutes. To the well stirred solution was then added 20 ml of water and the reaction heated to reflux for 1 hour. After cooling, the reaction was extracted with chloroform and the chloroform concentrated to yield 1.5 g maltol, which was recrystallized from methanol to yield the pure white solid, m.p. 159°-160° C. Hydrochloric acid, hydrobromic acid, p-toluene sulfonic acid and acidic ion exchange resins can be used in place of formic acid in this Example.

reactant | 2(1-hydroxy ethyl)-2,3,5-trimethoxy-2,5-dihydrofuran | 0.015 moles, 2.82 g | OC(C)C1(OC(C=C1OC)OC)OC | C9H16O5
reactant | formic acid | 15 ml | C(=O)O | CH2O2
reactant | water | 20 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | maltol | 1.5 g | CC1=C(C(=O)C=CO1)O | C6H6O3
